US08110585B2
methyl 5-bromo-2-ethyl-2H-indazole-4-carboxylate
To a solution of methyl 5-bromo-1H-indazole-4-carboxylate (2.00 g, 7.84 mmol) in ethyl acetate (80 mL) was added triethyloxonium hexafluorophosphate (2.92 g, 11.8 mmol), and the mixture was stirred under nitrogen atmosphere at room temperature for 15 hr. The reaction solution was diluted with ethyl acetate, saturated aqueous sodium hydrogen carbonate solution was added, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (NH, ethyl acetate/hexane=5/95→50/50) to give the title compound (2.03 g, yield 91%).

reactant | methyl 5-bromo-1H-indazole-4-carboxylate | 7.84 mmol, 2.00 g | BrC1=C(C=2C=NNC2C=C1)C(=O)OC | C9H7BrN2O2
reactant | triethyloxonium hexafluorophosphate | 11.8 mmol, 2.92 g | F[P-](F)(F)(F)(F)F.C(C)[O+](CC)CC
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | methyl 5-bromo-2-ethyl-2H-indazole-4-carboxylate | 2.03 g, yield 91% | BrC1=C(C2=CN(N=C2C=C1)CC)C(=O)OC | C11H11BrN2O2
